US07388020B2
5-Fluoro-1-(1-{(2S)-2-hydroxy-3-[(2-methyl-1H-indol-7-yl)oxy]propyl}4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 5-fluoro-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one (13.7 mg, 0.058 mmol), 2-methyl-7-[(2S)-oxiranylmethoxy]-1H-indole (12 mg, 0.058 mmol) in ethanol (2 mL) was kept on stirring at 80° C. for 5 h. The volatiles were removed in vacuo and residue purified by silica gel flash chromatography to give titled compound (18 mg).

reactant | 5-fluoro-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one | 0.058 mmol, 13.7 mg | FC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14FN3O
reactant | 2-methyl-7-[(2S)-oxiranylmethoxy]-1H-indole | 0.058 mmol, 12 mg | CC=1NC2=C(C=CC=C2C1)OC[C@H]1OC1 | C12H13NO2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-Fluoro-1-(1-{(2S)-2-hydroxy-3-[(2-methyl-1H-indol-7-yl)oxy]propyl}4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one | 18 mg | FC1=CC2=C(N(C(N2)=O)C2CCN(CC2)C[C@@H](COC=2C=CC=C3C=C(NC23)C)O)C=C1 | C24H27FN4O3
